US04578398
The more polar ketone isomer of 2-carbomethoxymethyl-5-ethenyl-2-ethylcyclohexanone (5.084 g, 22.66 mmol) and the 2-ethylphenylhydrazine (3.086 g, 22.66 mmol) were heated at reflux in 97 ml of methanol under nitrogen for 48 hours. The reaction was then cooled to 0° C., treated with 45.32 mmol (3.56 g, 3.22 ml) of AcCl and refluxed an additional 45 minutes. Cooling, concentration and flash chromatography afforded 2.772 g (8.52 mmol, 38%) of indole as an orange oil. Rf =0.47 in 15% ethyl acetate/petroleum ether on TLC.

reactant | 2-carbomethoxymethyl-5-ethenyl-2-ethylcyclohexanone | 22.66 mmol, 5.084 g | C(=O)(OC)CC1(C(CC(CC1)C=C)=O)CC | C13H20O3
reactant | 2-ethylphenylhydrazine | 22.66 mmol, 3.086 g | C(C)C1=C(C=CC=C1)NN | C8H12N2
reactant | AcCl | 45.32 mmol, 3.22 ml, 3.56 g | C(=O)(C)Cl | C2H3ClO
solvent | methanol | 97 ml | CO | CH4O
product | indole | 8.52 mmol, 2.772 g, 38% | N1C=CC2=CC=CC=C12 | C8H7N
